US04168269
4,9-Dihydro-4-hexanoyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
A 9 g. portion of 4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and 6.3 g. (6.6 ml.) of hexanoyl chloride in 100 ml. of benzene is refluxed for 3 hours. The benzene is distilled off. The residue is triturated in ether, washed with ether and dried. This solid is heated to boiling in 250 ml. of benzene, filtered and the filtrate is diluted with 250 ml. of hexane. This mixture is filtered and then cooled. The solid is collected, washed with hexane and dried giving the desired product, mp. 127°-129° C.

reactant | 4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C=1SC=C2NC3=C(NC(C21)=O)C=CC=C3 | C11H8N2OS
reactant | hexanoyl chloride | 6.6 ml | C(CCCCC)(=O)Cl | C6H11ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4,9-Dihydro-4-hexanoyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C(CCCCC)(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C17H18N2O2S
